US07291631B2
Using General Procedure B, reaction of [tert-butoxycarbonylimino-(4-oxo-piperidin-1-yl)-methyl]-carbamic acid tert-butyl ester, C-(3-methylpyridin-2-yl)-methylamine and NaBH(OAc)3 in CH2Cl2 gave (tert-butoxycarbonylimino-{4-[(3-methyl-pyridin-2-ylmethyl)-amino]-piperidin-1-yl}-methyl)-carbamic acid tert-butyl ester as a white solid.

reactant | [tert-butoxycarbonylimino-(4-oxo-piperidin-1-yl)-methyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(N1CCC(CC1)=O)=NC(=O)OC(C)(C)C)=O | C16H27N3O5
reactant | C-(3-methylpyridin-2-yl)-methylamine | CC=1C(=NC=CC1)CN | C7H10N2
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (tert-butoxycarbonylimino-{4-[(3-methyl-pyridin-2-ylmethyl)-amino]-piperidin-1-yl}-methyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(N1CCC(CC1)NCC1=NC=CC=C1C)=NC(=O)OC(C)(C)C)=O | C23H37N5O4
